US05872135
Step D: (1-Naphthylmethyl)glycine methyl ester hydrochloride
1-Naphthylmethanol (5.0 g, 0.0316 mol) was dissolved in dry CH2Cl2 (30 mL), diisopropylethylamine (6.6 mL, 0.0379 mol) was added, and the solution was cooled to 0° C. in an ice-water bath under Ar. Methanesulfonyl chloride (3.2 mL, 0.0316 mol) was added dropwise. After stirring cold for 30 min, additional diisopropylethylamine (1.6 mL) and methanesulfonyl chloride (0.8 mL) were added, and the reaction mixture was stirred and allowed to warm to 25 ° C. over 2.5 h. This solution was added alternately dropwise with diisopropylethylamine (22.5 m, 0.129 mol) to a slurry of glycine methyl ester hydrochloride (19.8 g, 0.158 mol) and diisopropylethylamine (5 mL, 0.028 mol) in dry DMF (30 mL) at 0° C. The reaction mixture was left to warm to ambient temperature overnight. Solvent was removed, and the residue treated with H2O (200 mL) and extracted with EtOAc (3×150 mL). The organics were washed with H2O, brine, and dried (MgSO4 and DARCO), filtered and concentrated to give a yellow oil. The oil was dissolved in EtOAc (200 mL), cooled to 0° C., and treated with HCl gas to precipitate the title compound as a tan solid. 1H NMR (CDCl3) δ10.48 (br s, 2H), 8.23 (d, 1H, J=8.6 Hz), 7.85-7.9 (m, 3H), 7.65 (td, 1H, J=1, 10 Hz), 7.47-7.58 (m, 2H), 4.84 (s, 2H), 3.67 (s, 3H), 3.65 (s, 2H).

reactant | 1-Naphthylmethanol | 0.0316 mol, 5.0 g | C1(=CC=CC2=CC=CC=C12)CO | C11H10O
reactant | diisopropylethylamine | 0.0379 mol, 6.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Methanesulfonyl chloride | 0.0316 mol, 3.2 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | diisopropylethylamine | 1.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.8 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | diisopropylethylamine | 0.129 mol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | glycine methyl ester hydrochloride | 0.158 mol, 19.8 g | Cl.COC(CN)=O
reactant | diisopropylethylamine | 0.028 mol, 5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | (1-Naphthylmethyl)glycine methyl ester hydrochloride | Cl.COC(CNCC1=CC=CC2=CC=CC=C12)=O | InChI=1S/C14H15NO2.ClH/c1-17-14(16)10-15-9-12-7-4-6-11-5-2-3-8-13(11)12;/h2-8,15H,9-10H2,1H3;1H
